US04159981
22. H-Gln-Asp(OtBu)-Phe-OCH3.HCl
4.4 g of Z-Gln-Asp(OtBu)-Phe-OCH3 are decarbobenzoxylated with hydrogen at room temperature in a duck-shaped shaking flask after adding 2.4 ml of hydrogen chloride in dioxane (3.0 N, 7.2 mmols) amd 900 mg of 10% strength palladium on charcoal catalyst. After completion of the hydrogen uptake the mixture is filtered and the filtrate evaporated to dryness in vacuo. The yellowish solid residue is twice triturated with ether and used for the next step without further purification.

reactant | Z-Gln-Asp(OtBu)-Phe-OCH3 | 4.4 g | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C31H40N4O9
reactant | hydrogen | [H][H] | H2
reactant | hydrogen chloride | 2.4 ml | Cl | ClH
reactant | dioxane | 7.2 mmols, 3.0 N | O1CCOCC1 | C4H8O2
catalyst | palladium on charcoal | [Pd] | Pd
product | H-Gln-Asp(OtBu)-Phe-OCH3.HCl | N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC.Cl | InChI=1S/C23H34N4O7.ClH/c1-23(2,3)34-19(29)13-16(26-20(30)15(24)10-11-18(25)28)21(31)27-17(22(32)33-4)12-14-8-6-5-7-9-14;/h5-9,15-17H,10-13,24H2,1-4H3,(H2,25,28)(H,26,30)(H,27,31);1H/t15-,16-,17-;/m0./s1
